US06949543B2
N-{[4-(2-aminothiazol-4-yl)phenylcarbamoyl]methyl}-4-fluoro-N-(4-fluorophenyl)benzamide monohydrochloride (200 mg) was dissolved in a mixed solvent of acetic acid (10 ml) and water (5 ml), mixed with bromine (20 μl) under ice-cooling and then stirred at room temperature for 5 minutes. The reaction solution was concentrated under a reduced pressure, and the residue was dissolved in ethyl acetate (30 ml)-saturated sodium bicarbonate aqueous solution (20 ml). The organic layer was washed with saturated brine, dried with anhydrous sodium sulfate and then concentrated under a reduced pressure. The residue was dissolved in ethyl acetate (5 ml) and mixed with 4 M hydrogen chloride in ethyl acetate solution (0.15 ml), and the thus precipitated solid was collected by filtration, dried and then recrystallized from methanol-ether, thereby obtaining 184 mg of N-{[4-(2-amino-5-bromothiazol-4-yl)phenylcarbamoyl]methyl}-4-fluoro-N-(4-fluorophenyl)benzamide monohydrochloride (colorless powder).

reactant | N-{[4-(2-aminothiazol-4-yl)phenylcarbamoyl]methyl}-4-fluoro-N-(4-fluorophenyl)benzamide monohydrochloride | 200 mg | Cl.NC=1SC=C(N1)C1=CC=C(C=C1)NC(=O)CN(C(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F
reactant | bromine | 20 μl | BrBr | Br2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | N-{[4-(2-amino-5-bromothiazol-4-yl)phenylcarbamoyl]methyl}-4-fluoro-N-(4-fluorophenyl)benzamide monohydrochloride | 184 mg | Cl.NC=1SC(=C(N1)C1=CC=C(C=C1)NC(=O)CN(C(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)Br | InChI=1S/C24H17BrF2N4O2S.ClH/c25-22-21(30-24(28)34-22)14-3-9-18(10-4-14)29-20(32)13-31(19-11-7-17(27)8-12-19)23(33)15-1-5-16(26)6-2-15;/h1-12H,13H2,(H2,28,30)(H,29,32);1H
